US03933470
Preparation of 3-Chloro-4-Hydroxycarbanilic Acid, Isopropyl Ester and Derivatives Thereof by Procedure 2 ##SPC6##
To a solution of 4-amino-2-chlorophenol (21.45 grams, 0.15 mole) in dry DMF (150 ml.) and pyridine (11.8 grams) is added at 0°C. slowly dropwise with stirring isopropyl chloroformate (16.5 grams, 0.016 mole). After 4 hours at 0° C. to 5°C., a further one gram of isopropyl chloroformate is added. The mixture is stirred at 25°C. for 16 hours, then poured into ice-dilute hydrochloric acid. After 4 hours stirring and scratching, a solid separates out and is filtered off. Crystallization from methanol gives 14.5 grams, 42%, melting point 89°C. to 90°C.

reactant | 4-amino-2-chlorophenol | 0.15 mole, 21.45 grams | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | pyridine | 11.8 grams | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 0.016 mole, 16.5 grams | ClC(=O)OC(C)C | C4H7ClO2
reactant | isopropyl chloroformate | one gram | ClC(=O)OC(C)C | C4H7ClO2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-Chloro-4-Hydroxycarbanilic Acid, Isopropyl Ester | ClC=1C=C(NC(OC(C)C)=O)C=CC1O | C10H12ClNO3
